Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
S/p fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ male with hx of DM2, HTN, HLD who presents after a 
fall in the setting of alcohol intoxication, and after a 
syncopal episode in the ED. 

The history is obtained from the patient and his son. The 
patient yesterday was in his usual state of health. He started 
drinking and became intoxicated. Per patient, he had 3 shots of 
cognac, but the patient's son said he was drinking excessively 
and became severely intoxicated. The patient was found down in 
the basement after what was presumed a fall; there were no 
witnesses and the patient does not remember the episode. The son 
found his father sitting on the floor, awake but inebriated, 
with urinary incontinence. He was complaining of right shoulder 
pain.

The son brought the patient into the ED. There, initial vitals 
were 97.1 73 ___ 99% RA. Labs were significant for alcohol 
level 155, lactate: 4.4 --> 3.6, leukocytosis to 13 with 56.8% 
PMNs, and negative troponins. CT head and cervical spine 
negative for acute abnormality, right shoulder xray negative for 
fracture or dislocation, and CXR clear. He was given 5mg 
oxycodone and 3L IVF.  

The patient was being discharged home from the ED, when while 
sitting on the edge of the bed, he slumped over and became 
unresponsive. He reported dizziness before the event. Per neuro 
note, "he had two events where he "passed out" without any 
myoclonic jerking or generalized tonic clonic activity. Both 
pt's son and the attending ED physician observed these episodes. 
Per ED attending, it looked like a "drop attack" with loss of 
muscle tone. Due to elevated lactate and leukocytosis following 
the episodes, neurology was consulted due to concern for 
seizure. ED also gave pt IV ativan and Keppra. ___ was 132."

Neurology evaluated the patient and they had low concern for 
seizure given lack of tonic-clonic activity or myoclonic jerks. 
They recommended admission to medicine for sycnope workup.  
Vitals prior to transfer: 98.1 94 104/66 26 96% RA.
  
On evaluation on the floor, the patient denies any 
lightheadedness or vertigo. Complains of right shoulder pain and 
mild chest pain.   
 
 
Past Medical History:
Type 2 diabetes, on metformin
Per patient a hx of valvular disease (echo in ___ showed mild 
AR)
Non-alcoholic fatty liver disease
+PPD
Vertigo
HTN
HLD  
 
Social History:
___
Family History:
No family history of heart disease, sudden death. Brother had 
seizures as a child, but not as an adult. No other significant 
family history.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS: 97.9 136/91 108 18 99% RA 
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated  
RESP: CTAB no wheezes, rales, rhonchi  
CV: Tachycardic, Nl S1, S2, No MRG. Chest wall with pain to 
palpation. No bruises or excoriations  
ABD: Soft, NT/ND bowel sounds present, no rebound tenderness or 
guarding, no organomegaly  
GU: no foley  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema. Pain with palpation over right deltoid. No erythema, 
bruising, edema. Decreased ROM ___ pain in shoulder. Full ROM of 
elbow.  
NEURO: CNs2-12 intact, motor function grossly normal. Full neuro 
exam from today by neuro normal  
SKIN: No excoriations or rash.

DISCHARGE PHYSICAL EXAM:
VITALS: 98.0 123/85 74 20 98% RA
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated  
RESP: CTAB no wheezes, rales, rhonchi  
CV: Tachycardic, Nl S1, S2, No MRG. Chest wall with pain to 
palpation. No bruises or excoriations  
ABD: Soft, NT/ND bowel sounds present, no rebound tenderness or 
guarding, no organomegaly  
GU: no foley  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema. Pain with palpation over right deltoid. No erythema, 
bruising, edema. Decreased ROM ___ pain in shoulder. Full ROM of 
elbow.  
NEURO: CNs2-12 intact, motor function grossly normal. Full neuro 
exam from today by neuro normal  
SKIN: No excoriations or rash.
 
Pertinent Results:
ADMISSION LABS:
___ 01:56AM BLOOD WBC-13.1*# RBC-4.36* Hgb-13.5* Hct-40.3 
MCV-92 MCH-31.0 MCHC-33.6 RDW-13.3 Plt ___
___ 01:56AM BLOOD Glucose-148* UreaN-15 Creat-0.9 Na-142 
K-3.9 Cl-104 HCO3-20* AnGap-22*
___ 01:56AM BLOOD Albumin-4.2 Calcium-8.7 Phos-3.6 Mg-2.0
___ 01:56AM BLOOD ALT-26 AST-32 AlkPhos-53 TotBili-0.2
___ 01:56AM BLOOD Lipase-33
___ 01:56AM BLOOD cTropnT-<0.01 proBNP-7
___ 01:56AM BLOOD ASA-NEG ___ Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 01:55AM BLOOD Lactate-4.4*
___ 05:52AM BLOOD Lactate-3.6*

DISCHARGE LABS:
___ 05:18AM BLOOD WBC-5.1# RBC-3.74* Hgb-11.6* Hct-35.2* 
MCV-94 MCH-30.9 MCHC-32.9 RDW-13.1 Plt ___
___ 05:18AM BLOOD Glucose-137* UreaN-16 Creat-0.8 Na-136 
K-3.8 Cl-101 HCO3-28 AnGap-11
___ 05:18AM BLOOD Calcium-8.2* Phos-2.5* Mg-1.9

MICRO:  
URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN AND/OR GENITAL CONTAMINATION. 

STUDIES:
CT head ___:
No acute intracranial abnormality.  Stable atlantodental 
interval widening as identified on prior CT dated ___.

CT cervical spine ___:
No acute cervical fracture or subluxation. Degenerative changes 
as described above.

R shoulder xray ___:
No fracture or dislocation.  Degenerative changes at the 
acromioclavicular and glenohumeral joints.

R shoulder xray axillary view ___:
Axillary view demonstrates no evidence of dislocation.  Mild 
glenohumeral degenerative change is present.  No fracture seen 
on this single projection.

CXR ___:
No acute intrathoracic abnormality. 
There is no definitive evidence of pleural effusion but since 
the left hemidiaphragm is elevated, correlation with lateral 
view to exclude pleural effusion is recommended. 

EKG ___:
Sinus rhythm. Borderline P-R interval prolongation. Low limb 
lead voltage. RSR' pattern in lead V1. Compared to the previous 
tracing of ___ the axis is now more vertical. QRS voltage is 
less prominent.

Echo ___:
The left atrium is mildly dilated. No atrial septal defect is 
seen by 2D or color Doppler. Left ventricular wall thicknesses 
are normal. The left ventricular cavity size is normal. Overall 
left ventricular systolic function is normal (LVEF = 65%). 
Tissue Doppler imaging suggests a normal left ventricular 
filling pressure (PCWP<12mmHg). Right ventricular chamber size 
and free wall motion are normal. The aortic valve leaflets (3) 
appear structurally normal with good leaflet excursion. There is 
no aortic valve stenosis. Trace aortic regurgitation is seen. 
The mitral valve appears structurally normal with trivial mitral 
regurgitation. The estimated pulmonary artery systolic pressure 
is normal. There is no pericardial effusion. 
Compared with the report of the prior study (images unavailable 
for review) of ___, the findings are similar. 
 
Brief Hospital Course:
___ with hx of DM2, HTN, HLD who presents after a mechanical 
fall in the setting of alcohol use, with syncopal event in ED, 
admitted for sycnope workup.

# Syncope: Patient with 2 syncopal episodes in the ED, and 
possibly one episode at home. Episode of syncope at home 
occurred in the setting of alcohol intoxication. In the ED, 
pre-syncopal/syncopal episode occured while BP in ___. Etiology 
to Ed episode though secondary to orthostasis vs vasovagal event 
given alcohol use which has a vasodilatory effect. Less likely 
seizures given lack of myoclonic activity; Neurology consulted 
and did not think the patient had a seizure. Cardiac etiology 
investigated: Patient without cardiac history, normal EKG, neg 
troponins, no events on telemetry, and normal echo all 
reassuring for lack of cardiac event. 
Patient without evidence of electrolyte abnormalities or 
infection. Patient had no further episodes in house. Prior to 
d/c he was seen by physical therapy and was cleared for 
discharge home.

# Right shoulder pain: Patient with significant right shoulder 
pain after a presumed fall at home. On exam, patient with very 
limited ROM of right shoulder, limited by pain. No evidence of 
fracture or dislocation on films. Ortho consulted, and thought 
exam and xrays were concerning for a soft tissue injury. 
Recommended follow up with PCP and possible ___ MRI for 
further evaluation of potential rotator cuff injury. He was 
discharged with a sling for comfort, oxycodone for pain, and 
outpatient physical therapy.

# DM2: On metformin at home. Was put on SSI while in-house.

# HTN: Held lisinopril initially given hypotension in the ED, 
resumed at discharge.

# HLD: Continued simvastatin.

TRANSITIONAL ISSUES:
- Patient may need shoulder MRI to evaluate for soft tissue 
injury/rotator cuff pathology if pain does not improve
- The patient had an elevated left hemidiaphragm on chest xray; 
radiology recommended lateral xray to rule out pleural effusion. 
Given lack of hypoxia or pulmonary complaints, the xray was 
deferred. If the patient develops new respiratory symptoms, 
further chest imaging may be warranted. 
- Encourage alcohol cessation.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 5 mg PO DAILY 
2. MetFORMIN (Glucophage) 850 mg PO BID 
3. Simvastatin 40 mg PO QPM 
4. Aspirin 81 mg PO DAILY 
5. Vitamin E 800 UNIT PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Simvastatin 40 mg PO QPM 
3. Vitamin E 800 UNIT PO DAILY 
4. Acetaminophen 500 mg PO Q6H:PRN pain, fever 
RX *acetaminophen 500 mg one tablet(s) by mouth every 6 h prn 
Disp #*30 Tablet Refills:*0
5. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg one tablet(s) by mouth twice a day 
Disp #*30 Tablet Refills:*0
6. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg one tablet(s) by mouth every 4 hours prn Disp 
#*30 Tablet Refills:*0
7. Senna 8.6 mg PO BID:PRN constipation 
RX *sennosides [senna] 8.6 mg one capsule by mouth BID prn Disp 
#*30 Capsule Refills:*0
8. Lisinopril 5 mg PO DAILY 
9. MetFORMIN (Glucophage) 850 mg PO BID 
10. Outpatient Physical Therapy
Physical therapy for right shoulder injury
ICD 9 code ___.41 (pain in shoulder)
Date of injury: ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Vasovagal syncope 
Right shoulder pain ___ soft tissue injury
Alcohol intoxication

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted after you fell at home and after you fainted 
in the emergency room. Neurology saw you, and did not think that 
you had a seizure. Your cardiac work-up was also 
normal--laboratory markers of cardiac damage were negative, your 
EKG was normal, and your echocardiogram was normal. There was no 
evidence of infection. It is likely you were dehydrated given 
your alcohol use. Please avoid alcohol and stay hydrated. 

In addition, you had severe right arm pain after your fall. 
Orthopedic surgery consulted, and reviewed your shoulder xrays. 
They did not see any fracture or dislocation. They think you may 
have a soft tissue injury, but do not think any interevention 
needs to be done in the hospital. You may need a shouler MRI as 
an outpatient if your pain does not improve. Please follow up 
with your primary care physician after discharge.

We wish you the best!
Your ___ care team
 
Followup Instructions:
___